US05770615
B. (S)-α-Amino-4-methoxy-α-methylbenzeneacetic Acid, Ethyl Ester
HCl gas was bubbled through a solution of (S)-α-amino-4-methoxy-α-methyl-benzeneacetic acid, hydrochloride salt (2.0 g, 8.6 mmol) in EtOH (25 mL) at 4° C. The solution was stirred for 1 hour at 20° C. before being refluxed for 5 hours. After cooling, the solution was concentrated in vacuo. The resulting oil was dissolved in CH2Cl2, and washed with aq. NaHCO3 ; the aqueous phase was back-extracted with CH2Cl2. The combined organic fractions were washed with H2O, brine and dried over Na2SO4 prior to concentration to yield the title compound as a yellow oil (1.75 g, 91%).

reactant | HCl | Cl | ClH
reactant | (S)-α-amino-4-methoxy-α-methyl-benzeneacetic acid, hydrochloride salt | 8.6 mmol, 2.0 g | Cl.N[C@](C(=O)O)(C1=CC=C(C=C1)OC)C
reactant | EtOH | 25 mL | CCO | C2H6O
product | (S)-α-Amino-4-methoxy-α-methylbenzeneacetic Acid, Ethyl Ester | 1.75 g, 91% | N[C@](C(=O)OCC)(C1=CC=C(C=C1)OC)C | C12H17NO3
